US07576072B2
Step B: Preparation of 3,5,6-trichloro-4-fluoropyridine-2-carboxylic acid methyl ester:
To a solution of 3,4,5,6-tetrachloropyridine-2-carboxylic acid methyl ester (1.00 equivalent) in MeCN is added CsF (1.00 equivalent) at room temperature. The resulting mixture is refluxed with stirring for 16 hours. The reaction mixture is cooled to room temperature and diluted with EtOAc and water. The organic layer is washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product that is purified by flash column chromatography as necessary.

reactant | 3,4,5,6-tetrachloropyridine-2-carboxylic acid methyl ester | 1.00 equivalent | COC(=O)C1=NC(=C(C(=C1Cl)Cl)Cl)Cl | C7H3Cl4NO2
reactant | CsF | 1.00 equivalent | [F-].[Cs+]
solvent | MeCN | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3,5,6-trichloro-4-fluoropyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C(=C1Cl)F)Cl)Cl | C7H3Cl3FNO2
